US05006563
Ethyl 3-(3-chlorophenyl)-2,2,3-trifluoropropionate
A solution of 25 g of ethyl 3-(3-chlorophenyl)-3-hydroxy-2,2-difluoropropionate in 140 mL CH2Cl2 was treated with a solution of 14 g of diethylaminosulfurtrifluoride in 10 mL CH2Cl2 at room temperature. After 3 hours, the mixture was poured into aqueous NaHCO3, extracted with ethyl acetate, dried (Na2SO4) and evaporated. The residue was distilled (0.1 mm Hg) to give 18.7 g of an oil which was used directly.

reactant | ethyl 3-(3-chlorophenyl)-3-hydroxy-2,2-difluoropropionate | 25 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)(F)F)O | C11H11ClF2O3
reactant | diethylaminosulfurtrifluoride | 14 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(3-chlorophenyl)-2,2,3-trifluoropropionate | 18.7 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)(F)F)F | C11H10ClF3O2
